US05780607
To 14.56 g (25.35 mmol) of N-[9-[3,4,6-tris-O-acetyl-2-deoxy-2-[(trifluoroacetyl)amino]-β-D-glucopyranosyl]-6,9-dihydro-6-oxo 1H-purin-2-yl]-acetamide was added a solution composed of 45 mL of Et3N, 225 mL of CH3OH, and 180 mL of H2O. This solution was stirred at room temperature for 12 hours. At this time, the solution was concentrated to dryness in vacuo. The residue was recrystallized from H2O yielding a white powder (7.2 g, 69%). To 7.08 g of this white powder was added 140 mL of 30% (wt/vol) NH4OH, and the reaction mixture was stirred for 15 hours at room temperature. The reaction mixture was then concentrated to dryness in vacuo. To the residue was added H2O and the mixture was frozen and lyophilized to a white powder yielding 9-(2-amino-2-deoxy-β-D-glucopyranosyl)guanine quantitatively. FAB-MS: m/z 313 for (M+1)+.

reactant | N-[9-[3,4,6-tris-O-acetyl-2-deoxy-2-[(trifluoroacetyl)amino]-β-D-glucopyranosyl]-6,9-dihydro-6-oxo 1H-purin-2-yl]-acetamide | 25.35 mmol, 14.56 g | C(C)(=O)O[C@@H]1[C@H]([C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=2N=C(NC(C2N=C1)=O)NC(C)=O)NC(C(F)(F)F)=O | C21H23F3N6O10
reactant | Et3N | 45 mL | CCN(CC)CC | C6H15N
reactant | CH3OH | 225 mL | CO | CH4O
solvent | H2O | 180 mL | O | H2O
product | 9-(2-amino-2-deoxy-β-D-glucopyranosyl)guanine | N[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1O)O)CO)N1C=2N=C(NC(C2N=C1)=O)N | C11H16N6O5
